US08383652B2
1.5 g (2.5 mmol) of sodium hydroxide are added to a solution of 1.2 g (2.5 mmol) of ethyl (E)-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]-2-methylacrylate in 30 mL of an 8/2 tetrahydrofuran/methanol mixture. The reaction medium is stirred at room temperature for 4 hours. After addition of water and acidification to pH4 with acetic acid, the reaction medium is extracted with ethyl acetate. The organic phase is washed with saturated sodium chloride solution, dried over sodium sulfate, filtered and evaporated. The residue obtained is purified by chromatography on a column of silica eluted with a 7/3 heptane/ethyl acetate mixture. The product is recrystallized from an isopropyl ether/pentane mixture. 456 mg (40%) of (E)-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]-2-methylacrylic acid are obtained in the form of a solid with a melting point of 79° C.

reactant | sodium hydroxide | 2.5 mmol, 1.5 g | [OH-].[Na+]
reactant | ethyl (E)-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]-2-methylacrylate | 2.5 mmol, 1.2 g | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)/C=C(/C(=O)OCC)\C)=O | C27H36N2O3
reactant | tetrahydrofuran methanol | O1CCCC1.CO
reactant | water | O | H2O
solvent | acetic acid | C(C)(=O)O | C2H4O2
product | (E)-3-[3′-(3-heptyl-1-methylureido)biphenyl-4-yl]-2-methylacrylic acid | 456 mg, 40% | C(CCCCCC)NC(N(C)C=1C=C(C=CC1)C1=CC=C(C=C1)/C=C(/C(=O)O)\C)=O | C25H32N2O3
